US06835731B2
Preparation of 3-Chloromethyl-N-phenyl-benzamide:
To a stirred solution of aniline (0.4 mL, 4.30 mmol) in anhydrous CH2Cl2 (10 mL) was added 3-chloromethylbenzoyl chloride (360 mg, 1.90 mmol). The reaction mixture was allowed to stir at room temperature overnight. The solvent was removed under reduced pressure. Purification of the residue on strong acid ion exchange resin column (elution with methanol) afforded the title compound (400 mg, 86%) as a white solid.

reactant | aniline | 4.30 mmol, 0.4 mL | NC1=CC=CC=C1 | C6H7N
reactant | 3-chloromethylbenzoyl chloride | 1.90 mmol, 360 mg | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloromethyl-N-phenyl-benzamide | 400 mg, 86% | ClCC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C14H12ClNO
